US07501411B2
Step 3: 4-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-2-hydroxy-N-[(6-methyl-pyridin-3-yl)methyl]benzamide
5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine (285 mg, 1.03 mmol) and 4-amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide (280 mg, 1.03 mmol) are stirred in iPrOH (5 mL) and HBr (48% aq., 380 μL) is added. The mixture is heated at reflux for 24 hours. The cooled suspension is poured into NaHCO3 (sat. aq., 25 mL) and water (25 mL) and extracted with CHCl3 (4×30 mL). The extracts are dried over MgSO4 and evaporated. The residue is purified by column chromatography, eluting with 10% CH2Cl2/MeOH. The product-containing fractions are evaporated and the residue is triturated with MeOH to afford the title compound as a brown solid.

reactant | 5,8-Dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 1.03 mmol, 285 mg | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | 4-amino-2-methoxy-N-[(6-methylpyridin-3-yl)methyl]benzamide | 1.03 mmol, 280 mg | NC1=CC(=C(C(=O)NCC=2C=NC(=CC2)C)C=C1)OC | C15H17N3O2
reactant | HBr | 380 μL | Br | BrH
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
solvent | water | 25 mL | O | H2O
product | 4-(5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-2-hydroxy-N-[(6-methyl-pyridin-3-yl)methyl]benzamide | BrC1=CN=C(C=2N1N=CN2)NC2=CC(=C(C(=O)NCC=1C=NC(=CC1)C)C=C2)O | C19H16BrN7O2
